US06953790B2
N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.038 mL, 0.276 mmol) was added to a solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)azepan-2-one (89 mg, 0.276 mmol) and 4-nitrophenyl chloroformate (56 mg, 0.276 mmol) in tetrahydrofuran (3 mL) at 0° C. After 30 min, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (88 mg, 0.304 mmol), triethylamine (0.152 mL, 1.104 mmol), and dichloromethane (5 mL) were added and the mixture allowed to warm to ambient temperature. After 48 h, the mixture was concentrated. Purification by silica gel chromatography [100% dichloromethane→95% dichloromethane/methanol (10% ammonium hydroxide/methanol)] gave the title compound (98 mg). The title compound was converted to the HCl salt with 2M HCl in ether. MS 567.2 (M+1). 1H NMR (500 MHz, CD3OD) δ 8.11 (dd, J=7.8 Hz, 1.0 Hz, 1H), 8.00 (dd, J=5.9 Hz, 1.0 Hz, 1H), 7.34-7.31 (m, 1H), 7.19-7.13 (m, 3H), 4.86-4.83 (m,1H), 4.62-4.57 (m, 1H), 4.49-4.41 (m, 1H), 4.33-4.25 (m, 3H), 4.12-4.04 (m, 1H), 3.51-3.46 (m, 1H), 3.18-3.14 (m, 1H), 3.09-2.96 (m, 2H), 2.51-2.44 (m, 1H), 2.33-2.25 (m, 1H), 2.22-2.10 (m, 3H), 1.90-1.81 (m, 3H).

reactant | Triethylamine | 0.276 mmol, 0.038 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)azepan-2-one | 0.276 mmol, 89 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC(F)(F)F)=O | C14H15F5N2O
reactant | 4-nitrophenyl chloroformate | 0.276 mmol, 56 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.304 mmol, 88 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 1.104 mmol, 0.152 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 98 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC(F)(F)F)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C26H27F5N6O3
